* TestBench: analogcoder_pro_p08_currentmirror_full_testbench
* Circuit: analogcoder_pro_p08_currentmirror
* Category: full
*
.OPTIONS POST=2 PROBE

* AnalogCoder-Pro p8: A simple NMOS constant current source with resistive load R
* Source: analogcoder\AnalogCoderPro-master\sample_design\p8\p8.py
* AnalogCoder-Pro type: CurrentMirror
* Inputs: Vbias
* Outputs: Vout

.MODEL nmos NMOS (LEVEL=1 VTO=0.5 KP=0.0002)

Vdd Vdd 0 5
Vbias Vbias 0 1
M1 Vout Vbias 0 0 nmos W=1e-05 L=1e-06
Rload Vout Vdd 10000

.OP
.DC Vdd 0 5 0.1

.TEMP 27.0
.TRAN 1n 50u 0

.END